US05099019
EXAMPLE 137 16α-Methyl-21-[4-[4,6-bis(2-pyridinyl)-1,3,5-triazin-2-yl]-1-piperazinyl]pregna-1,4,9(11)-triene-3,20-dione (I)
Following the general procedure of EXAMPLES 1-6A. 7, 8, 11-19, 83 and 126, and making non-critical variations but starting with 21-iodo-16α-methylpregna-1,4,9(11)-triene-3,20-dione (PREPARATION S-22) and 4-[4,6-bis(2-pyridinyl)-1,3,5-triazin-2-yl]piperazine (PREPARATION A-49) the title compound is obtained. EXAMPLE 138 16α-Methyl-21-[4-[5,6-bis(2-pyridinyl)-1.2.4-triazin. 3-yl]-1-piperazinyl]pregna-1,4,9(11)-triene-3,20-dione (I)

reactant | 21-iodo-16α-methylpregna-1,4,9(11)-triene-3,20-dione | ICC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O | C22H27IO2
reactant | 4-[4,6-bis(2-pyridinyl)-1,3,5-triazin-2-yl]piperazine | N1=C(C=CC=C1)C1=NC(=NC(=N1)C1=NC=CC=C1)N1CCNCC1 | C17H17N7
product | 16α-Methyl-21-[4-[4,6-bis(2-pyridinyl)-1,3,5-triazin-2-yl]-1-piperazinyl]pregna-1,4,9(11)-triene-3,20-dione | C[C@H]1[C@H](C(CN2CCN(CC2)C2=NC(=NC(=N2)C2=NC=CC=C2)C2=NC=CC=C2)=O)[C@]2(CC=C3[C@]4(C=CC(C=C4CC[C@H]3[C@@H]2C1)=O)C)C | C39H43N7O2
